US05789412
43A: 2-(piperazin-1-yl)phenol
2-Aminophenol (6 g; 54 mmol) is dissolved in 1-butanol (110 ml) in the presence of sodium carbonate (2.9 g; 27.5 mmol) and N-methylbis(2-chloroethyl)amine hydrochloride (11.1 g; 58 mmol). The suspension is heated at 123° C. for 3 days. The butanol is evaporated off under reduced pressure and compound 43A is purified by flash chromatography with the following mixtures of eluents: NH4 OH/acetone/CH2Cl2 (0.5/20/80) and then NH4 OH/methanol/CH2Cl2 (1/5/95).

reactant | 2-Aminophenol | 54 mmol, 6 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium carbonate | 27.5 mmol, 2.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-methylbis(2-chloroethyl)amine hydrochloride | 58 mmol, 11.1 g | Cl.CN(CCCl)CCCl
solvent | 1-butanol | 110 ml | C(CCC)O | C4H10O
product | 2-(piperazin-1-yl)phenol | N1(CCNCC1)C1=C(C=CC=C1)O | C10H14N2O
